US08470199B2
4-Bromoethylbenzene (s4) (30.0 g) and THF (1,000 ml) were placed in a reaction vessel under an atmosphere of nitrogen, and cooled to −74° C. n-Butyllithium (1.57M in n-hexane; 124 ml) was added dropwise in the temperature range of −74° C. to −70° C., and the stirring was continued for another 2 hours. 4-(1,4-Dioxaspiro[4.5]decan-8-yl)-cyclohexanone (s5) (38.6 g) in THF (200 ml) solution was added dropwise in the temperature range of −75° C. to −70° C., and the stirring was continued for another 8 hours while the mixture was allowed to come to 25° C. The resulting reaction mixture was poured into a vessel containing an aqueous solution of ammonium chloride (500 ml) and ethyl acetate (500 ml), and mixed with them. The mixture was allowed to stand and separate into organic and aqueous layers, and the latter was extracted. The separated organic layers were washed with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure. p-Toluenesulfonic acid (1.6 g) and toluene (300 ml) were added to the residue, and the mixture was heated to reflux for 2 hours, while distilled water was removed. After the reaction mixture had been cooled to 30° C., water (500 ml) and toluene (900 ml) were added and mixed with it. The mixture was allowed to stand and separate into two layers of organic and aqueous layers, and the latter was extracted. The organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The resulting solution was purified by fractionation using column chromatography with toluene as an eluent and silica gel as a stationary phase powder. The product was dissolved in a mixed solvent of toluene (250 ml) and Solmix A-11 (250 ml), to which Pd/C (0.3 g) was added. The mixture was stirred at room temperature under a hydrogen atmosphere until hydrogen absorption had ceased. After the reaction had been completed, Pd/C was removed, and then solvent was distilled off. The resulting residue was purified by fractionation using column chromatography with toluene as an eluent and silica gel as a stationary phase powder, and by recrystallization from heptane, and then dried to give 8-(trans-4-(4-ethylphenyl)cyclohexyl)-1,4-dioxaspiro[4.5]decane (s6) (33.2 g). The yield based on the compound (s1) was 62.3%.

reactant | 4-Bromoethylbenzene | 30.0 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | n-Butyllithium | 1.57M, 124 ml | C(CCC)[Li]
reactant | 4-(1,4-Dioxaspiro[4.5]decan-8-yl)-cyclohexanone | 38.6 g | O1CCOC12CCC(CC2)C2CCC(CC2)=O | C14H22O3
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 1,000 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 8-(trans-4-(4-ethylphenyl)cyclohexyl)-1,4-dioxaspiro[4.5]decane | 33.2 g | C(C)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C1CCC2(OCCO2)CC1 | C22H32O2
